US07893056B2
To a solution of (9aR)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazine (1.8055 g, 7.77 mmol) in MeOH (80 mL) was added 1 N aq. HCl (15.5 mL, 15.5 mmol) and 10% Pd/C (50% water, 360 mg). The mixture was hydrogenated under balloon pressure overnight, and was then filtered through a 0.2 μm PTFE membrane. The solution was concentrated in vacuo and the residue was azeotroped with MeOH (3×50 mL) to provide crude (9aR)-octahydropyrazino[2,1-c][1,4]oxazine dihydrochloride (1.7185 g, >100% crude yield) as an orange solid. LCMS: (M+H)+: 142.9.

reactant | (9aR)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazine | 7.77 mmol, 1.8055 g | C1(=CC=CC=C1)CN1C[C@@H]2COCCN2CC1 | C14H20N2O
reactant | HCl | 15.5 mmol, 1 N, 15.5 mL | Cl | ClH
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd/C | 360 mg | [Pd] | Pd
product | (9aR)-octahydropyrazino[2,1-c][1,4]oxazine dihydrochloride | 1.7185 g | Cl.Cl.C1OCCN2[C@@H]1CNCC2 | InChI=1S/C7H14N2O.2ClH/c1-2-9-3-4-10-6-7(9)5-8-1;;/h7-8H,1-6H2;2*1H/t7-;;/m1../s1
